US06548522B1
N -Pentyl-2,2-diphenyl-acetamide
To a cooled (0° C.) solution diphenylacetyl chloride (1.73 mmol) and pyridine (0.28 ml, 3.46 mmol) in dichloromethane (12 ml) was added pentylamine (0.39 ml, 2.60 mmol) and the reaction mixture was stirred at RT for 16 h. Aqueous work up and crystallization from ethyl acetate/hexane yielded the product as a light yellow solid, m.p. 101° C. and MS: m/e=281 (M+).

reactant | diphenylacetyl chloride | 1.73 mmol | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | pyridine | 3.46 mmol, 0.28 ml | N1=CC=CC=C1 | C5H5N
reactant | pentylamine | 2.60 mmol, 0.39 ml | C(CCCC)N | C5H13N
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | N -Pentyl-2,2-diphenyl-acetamide | C(CCCC)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H23NO
